US06852882B2
Preparation of 2,3,5-Trichloro-N-[2-(N-formyl-N-hydroxy-amino)-ethyl]-benzamide
A mixture of acetic anhydride (2 mL) and formic acid (1 mL) was allowed to stand at 55° C. for 2.5 h. After cooling to 0° C., the resulting mixed anhydride (0.5 mL) was added to a solution of 2,3,5-trichloro-N-(2-hydroxyamino-ethyl)-benzamide (0.27 g, 1.0 mmol) in pyridine (10 mL) at 0° C. under an argon atmosphere. The reaction mixture was stirred for 2 h at room temperature and the pyridine removed in vacuo. The residue was purified by preparative reverse-phase HPLC to provide the title compound (0.09 g, 28%) as a white solid. 1H NMR* (400 MHz, CD3OD): δ 8.35 (s, 0.5H); 7.95 (s, 0.5H); 7.70 (s, 1H); 7.42 (s, 1H); 3.78 (m, 1H); 3.73 (m, 1H); 3.60 (m, 2H). * 1:1 mixture of rotamers. ESMS: M+H=311.

reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1 mL | C(=O)O | CH2O2
reactant | 2,3,5-trichloro-N-(2-hydroxyamino-ethyl)-benzamide | 1.0 mmol, 0.27 g | ClC1=C(C(=O)NCCNO)C=C(C=C1Cl)Cl | C9H9Cl3N2O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2,3,5-Trichloro-N-[2-(N-formyl-N-hydroxy-amino)-ethyl]-benzamide | 0.09 g, 28% | ClC1=C(C(=O)NCCN(O)C=O)C=C(C=C1Cl)Cl | C10H9Cl3N2O3
